*
Vin	Vin	0	AC	1
Vdd	Vdd 0	DC	-4.5
*
*	V-	V+	Vout
C011	Vin	2	1u
R038	2	3	47k
Z2a	3	4	5
R045	3	5	47k
C026	3	5	100p
R050	2	6	330
C005	5	Vout	10u
C037	5	7	1u
R049	7	8	330
R039	4	0	1M
C038	4	14	0.1u
C043	14	0	0.0082u
PR2aa	14	14	15	50k
R062	15	Vdd	2.2k
PR2ab	14	14	13	50k
R048	12	13	2.2k
C036	12	11	0.022u
Z2b	11	9	11
PR02	6	9	8	100k

*