*
Vin	Vin	0	AC	1
Vdd	Vdd 0	DC	-4.5
*
*	V-	V+	Vout
C011	Vin	2	1u
R038	2	3	47k
Z2a	3	4	Vout
R035	3	Vout	47k
C026	3	Vout	100p
R039	4	0	1M

C037	Vout	7	1u
PR02	2	9	7	100.66k

C038	4	14	0.1u
C043	14	0	0.0082u

PR2aa	14	14	Vdd	52.2k
PR2ab	14	14	12	50k

C036	12	11	0.022u
Z2b	11	9	11

* Simplified
*R050	2	6	330
*R049	7	8	330

*R062	15	Vdd	2.2k
*R048	12	13	2.2k

*